US05854199
Production Example 1 was repeated using 20.0 g (0.072 mols) of α-glutamylglutamic acid and 21.9 g (0.072 mols)of stearoyl chloride to give 34.9 g of N-(N'-stearoyl-α-glutamyl)glutamic acid in a yield of 89%. This solid was analyzed by infrared spectrophotometry. A peak diagnostic of an amide group was observed at 1,650 cm-1 and a peak diagnostic of a carboxyl group was observed at 1,730 cm-1, respectively.

reactant | α-glutamylglutamic acid | 0.072 mols, 20.0 g | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CCC(=O)O)C(=O)O | C10H16N2O7
reactant | stearoyl chloride | 0.072 mols, 21.9 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
product | N-(N'-stearoyl-α-glutamyl)glutamic acid | 34.9 g, yield of 89% | C(CCCCCCCCCCCCCCCCC)(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CCC(=O)O)C(=O)O | C28H50N2O8
